US07384983B2
(R)-3-chloro-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane
A solution of (S)-(−)-3-chloro-1-phenyl-1-propanol (0.204 gm, 1.20 mMol), 4-acetoxy-2-methylphenol (0.200 gm, 1.20 mMol) and triphenylphosphine (0.346 g, 1.32 mMol) in 10 mL tetrahydrofuran was cooled to 0-5° C. under argon. This mixture was treated dropwise with di-isopropylazodicar-boxylate (0.26 mL, 1.32 mMol) in tetrahydrofuran (2 mL). The resulting mixture was stirred for 1 hour at 0-5° C. and was then allowed to warm to room temperature. After stirring at room temperature over night the reaction mixture was concentrated under reduced pressure and the residue triturated with 10% ethyl acetate in pentane and stirred until the suspended solid was crystalline. The suspension was filtered and the recovered crystalline solid washed with 10% ethyl acetate in pentane. The combined filtrates were concentrated under reduced pressure and the residue subjected to silica gel chromatography eluting with toluene. Fractions containing product were combined and concentrated under reduced pressure to provide 0.205 gm (54%) of the desired compound as a pale yellow oil.

reactant | (S)-(−)-3-chloro-1-phenyl-1-propanol | 1.20 mMol, 0.204 gm | ClCC[C@H](O)C1=CC=CC=C1 | C9H11ClO
reactant | 4-acetoxy-2-methylphenol | 1.20 mMol, 0.200 gm | C(C)(=O)OC1=CC(=C(C=C1)O)C | C9H10O3
reactant | triphenylphosphine | 1.32 mMol, 0.346 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (R)-3-chloro-1-phenyl-1-(2-methyl-4-acetoxyphenoxy)propane | 0.205 gm, 54% | ClCC[C@@H](OC1=C(C=C(C=C1)OC(C)=O)C)C1=CC=CC=C1 | C18H19ClO3
